US04114314
Rapoport et al. (J.A.C.S. 5485 and 5900 73 1951) have claimed a 22% yield of morphine from codeine employing pyridine hydrochloride as the cleavage agent. 1.00g codeine was heated with pyridine hydrochloride for six minutes under nitrogen. The reaction mixture was dissolved in 20ccm water, basified with 10ccm 4N NaOH and extracted with chloroform to yield 0.210g morphine.

reactant | codeine | CN1CC[C@]23C4=C5C=CC(=C4O[C@H]2[C@H](C=C[C@H]3[C@H]1C5)O)OC | C18H21NO3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
reactant | codeine | 1.00g | CN1CC[C@]23C4=C5C=CC(=C4O[C@H]2[C@H](C=C[C@H]3[C@H]1C5)O)OC | C18H21NO3
reactant | NaOH | 4N, 10ccm | [OH-].[Na+]
solvent | water | 20ccm | O | H2O
product | morphine | 0.210g | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
